US04572913
A solution of 3-amino-1-(3-trifluoromethylphenyl)-2-pyrazoline (2.29 g) and salicylaldehyde (1.2 g) in methanol (22.9 ml) was heated to reflux for 30 minutes. The resulting semi-solid mass was cooled and then filtered to give an orange-coloured solid which was re-crystallized from ethanol to produce 3-salicylideneamino-1-(3-trifluoromethylphenyl)-2-pyrazoline m.p. 159.1° (yield 1.7 g).

reactant | 3-amino-1-(3-trifluoromethylphenyl)-2-pyrazoline | 2.29 g | NC1=NN(CC1)C1=CC(=CC=C1)C(F)(F)F | C10H10F3N3
reactant | salicylaldehyde | 1.2 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | methanol | 22.9 ml | CO | CH4O
product | 3-salicylideneamino-1-(3-trifluoromethylphenyl)-2-pyrazoline | yield 1.7 g | C(C=1C(O)=CC=CC1)=NC1=NN(CC1)C1=CC(=CC=C1)C(F)(F)F | C17H14F3N3O
